US05342720
Preparation of a stabilizer containing salicylic acid groups
A mixture of 2 g of HEMA, 1.5 g of 10% p-dodecylbenzene sulfonic acid (DBSA) in heptane and 15 ml of ethyl acetate was added to the polymeric stabilizer precursor solution prepared above. The reaction mixture was stirred at room temperature overnight. The IR spectra of a dry film of the polymeric solution showed the disappearance of the azlactone carbonyl peak, indicating the completion of the reaction of the azlactone with HEMA.

reactant | HEMA | 2 g | CC(=C)C(=O)OCCO | C6H10O3
reactant | p-dodecylbenzene sulfonic acid | 1.5 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)O | C18H30O3S
reactant | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
